2144-10-14 06:28:00 Physician Resident Progress Note
Chief Complaint: Respiratory Distress
   24 Hour Events:
 PICC LINE - START [**2144-10-13**] 01:18 PM
 INVASIVE VENTILATION - START [**2144-10-13**] 01:30 PM
 ARTERIAL LINE - START [**2144-10-13**] 02:00 PM
 EKG - At [**2144-10-13**] 05:00 PM
   NPO for aspiration risk and possible extubation today
   Abnormal EKG compared to prior; starting cycling enzymes; negative x1
   so far
   History obtained from Patient, Family / [**Hospital 56**] Medical records
   Allergies:
   History obtained from Patient, Family / [**Hospital 56**] Medical [**Name2 (NI) 4484**] Known
   Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2144-10-14**] 12:52 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2144-10-13**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2144-10-14**] 12:53 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-14**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (99
   HR: 67 (65 - 91) bpm
   BP: 118/49(69) {99/44(59) - 172/85(117)} mmHg
   RR: 14 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    243 mL
                                                                    160 mL
   PO:
             TF:
   IVF:
                                                                    153 mL
                                                                    131 mL
   Blood products:
   Total out:
                                                                  1,965 mL
                                                                    205 mL
   Urine:
                                                                  1,965 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,723 mL
                                                                    -44 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Sao2 < 90%
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.39/38/90.[**Numeric Identifier 128**]/22/-1
   Ve: 8 L/min
   PaO2 / FiO2: 225
   Physical Examination
   GENERAL: NAD, patient nods with her head yes/no, but is unable to move
   or open eyes.
   HEENT: PEERLA
   Neck: supple, no bruits, thyroid normal size, no lymph nodes palpable
   Heart: RRR, no m/r/g
   Lungs: bibasilar ronchi
   Abdomen: Normal bowel movements, non-tender, mildly distended.
   Extremities: Pitting edema in both feet, normal temperature. Good
   pulses in upper extremities, but no palpable pulses in feet, most
   likely due to edema.
   Skin: No Skin rashes
   Neuro: Craneal nerves [**3-19**], [**10-23**] normal; good muscle tones, normal ROTs,
   patient only nodding head and responsing to pain.
   Labs / Radiology
   313 K/uL
   7.2 g/dL
   96 mg/dL
   0.5 mg/dL
   22 mEq/L
   2.7 mEq/L
   12 mg/dL
   117 mEq/L
   144 mEq/L
   21.5 %
   6.4 K/uL
        [image002.jpg]
                             [**2144-10-13**]  02:05 PM
                             [**2144-10-13**]  02:52 PM
                             [**2144-10-13**]  05:30 PM
                             [**2144-10-14**]  04:22 AM
                             [**2144-10-14**]  04:50 AM
   WBC
   10.6
   6.4
   Hct
   25.3
   21.5
   Plt
   393
   313
   Cr
   0.5
   0.5
   TropT
   <0.01
   TCO2
   22
   21
   24
   Glucose
   114
   100
   96
   Other labs: PT / PTT / INR:14.3/33.3/1.2, CK / CKMB /
   Troponin-T:[**9-13**]/<0.01, Differential-Neuts:93.0 %, Lymph:3.4 %, Mono:2.6
   %, Eos:0.8 %, Lactic Acid:1.1 mmol/L, Ca++:8.5 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
   THIS IS THE PLAN FROM YESTERDAY; PRELIMINARY NOTE FOR ROUNDS USE
   ONLY!!!!
   59 y/o F with h/o mental retardation, recent dx of Nodular sclerosing
   Hodgkins Lymphoma s/p chemo on [**2144-10-9**] presented with acute respiratory
   distress likely due to aspiration & mucus plugging now intubated.
   .
   # Hypoxia: Likely due to aspiration & mucus plugging in the setting of
   depressed mental status, coughing and emesis. Patient with less O2
   requirements and improved chest film. [**Month (only) 60**] be able to be extubated later
   today. Will decrease sedation and to a breathing test.
   - f/u sputum Cx & low threshold to start ABx if spikes temp
   - wean sedation, SBT & RSBI
   - continue regular suction & albuterol MDI
   - diuresis goal neg 1-2L
   # Hodgkins Lymphoma: Pt is s/p EACoPP protocol on [**2144-7-21**] with
   cytoxan, doxorubacin on day 1 and etoposide on days [**2-13**]. Pt has also
   had pericardial tamponade s/p pericardiocentesis on [**2144-6-24**] and
   pericardial window on [**2143-7-25**]. Pt initiated ICE chemo reg on [**2144-10-9**].
    WBC trending down after chemotherapy.
   - continue Acyclovir & Bactrim ppx
   - f/u Onc recs
   - transfuse to maintain hct>25
   -f/u WBC and HCT
   # Anemia: Normocytic, normochromic anemia with very high ferritin and
   high TIBC. Most likely due to chronic disease and HCT trending down
   after chemotherapy. HCT 21 today.
   -          Transfuse 2 RBC packs today; goal HCT >21
   -          Follow HCT after transfusion
   .
   # H/o megacolon/Diarrhea: Pt is s/p volvulous & sigmoid resection with
   large dilated loops of colon visible on portable films.  She has
   required intermittent rectal tubes, currently having alot of stool
   output with recent C. Diff toxin + [**2144-8-8**] & [**2144-9-1**].  Patient still
   having diarrhea, but no other symptoms. C diff toxin in stool is not
   useful at this point due to recent prior infection. [**Month (only) 60**] need workup for
   chronic diarrhea, but not likely since patient with tube feeds.
   - will keep NPO for now (possible extubation in am)
   - continue po vanco & IV flagyl
   - OG tube to intermittent suction
   .
   # Paroxysmal A-fib: Recent adm to ICU due to poor rate control (rates
   of 160 with relative hypotension). Rates have been better controlled on
   current regimen of Metoprolol, Amiodarone & Diltiazem.  No plan for
   anticoagulation due to bloody pericardial effusion.  Currently in NSR
   with rate in 60s.
   - continue Metoprolol & diltiazem & amiodarone
   - f/u repeat EKG
   .
   # UA: Pt had positive UA on [**10-11**], Urine Cx + fungus 4000-6000 CFUs.
   Received fluconazole 400mg x 1
   - change out foley now
   - resend UA & Urine Cx
   - hold off on Fluconazole for now
   .
   # F/E/N: IVF prn, NPO for now, OG tube to intermittent suction
   - replete lytes agressively
   .
   # PPX: heparin SQ, PPI
   .
   # CODE: Intubate/DNR
   .
   # ACCESS: L PICC, working on PIV
   .
   # CONTACT: HCP - brother [**Name (NI) 3080**] [**Telephone/Fax (1) 3081**] (mobile) and [**Telephone/Fax (1) 3082**]
   (home); brother also gave permission to speak with his wife [**Name (NI) **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2144-10-13**] 01:18 PM
   Arterial Line - [**2144-10-13**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2144-10-14 11:20:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   59 year old female respiratory failure likely secondary to
   aspiration/plugging.  See full H and P from yesterday for details.
   Overnight, oxygenation improved and lung re-inflated on chest
   radiograph.
   24 Hour Events:
 PICC LINE - START [**2144-10-13**] 01:18 PM
 INVASIVE VENTILATION - START [**2144-10-13**] 01:30 PM
 ARTERIAL LINE - START [**2144-10-13**] 02:00 PM
 EKG - At [**2144-10-13**] 05:00 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2144-10-14**] 08:57 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2144-10-13**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2144-10-14**] 08:11 AM
   Other medications:
   [**Month (only) **] reviewed
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-14**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.2
   HR: 73 (65 - 91) bpm
   BP: 114/56(75) {97/44(59) - 172/85(117)} mmHg
   RR: 14 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    243 mL
                                                                    501 mL
   PO:
             TF:
   IVF:
                                                                    153 mL
                                                                    351 mL
   Blood products:
   Total out:
                                                                  1,965 mL
                                                                    485 mL
   Urine:
                                                                  1,965 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,723 mL
                                                                     16 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Sao2 < 90%
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.39/38/90.[**Numeric Identifier 128**]/22/-1
   Ve: 7.3 L/min
   PaO2 / FiO2: 225
   Physical Examination
   General Appearance: Intubated and sedated
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.2 g/dL
   313 K/uL
   96 mg/dL
   0.5 mg/dL
   22 mEq/L
   2.7 mEq/L
   12 mg/dL
   117 mEq/L
   144 mEq/L
   21.5 %
   6.4 K/uL
        [image002.jpg]
                             [**2144-10-13**]  02:05 PM
                             [**2144-10-13**]  02:52 PM
                             [**2144-10-13**]  05:30 PM
                             [**2144-10-14**]  04:22 AM
                             [**2144-10-14**]  04:50 AM
   WBC
   10.6
   6.4
   Hct
   25.3
   21.5
   Plt
   393
   313
   Cr
   0.5
   0.5
   TropT
   <0.01
   TCO2
   22
   21
   24
   Glucose
   114
   100
   96
   Other labs: PT / PTT / INR:14.3/33.3/1.2, CK / CKMB /
   Troponin-T:[**9-13**]/<0.01, Differential-Neuts:93.0 %, Lymph:3.4 %, Mono:2.6
   %, Eos:0.8 %, Lactic Acid:1.1 mmol/L, Ca++:8.5 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
   1) Acute Respiratory Failure: Likely secondary to mucous
   plugging/aspiration.  Improved overnight.  Poor RSBI because of
   hypo-ventilation which may be secondary to sedation.
   Plan: Discontinue sedation, PS, and repeat SBT in several hours after
   sedation is worn off
   2) Hodgkins lymphoma:
   - s/p chemo; on prophylaxis
   3) Anemia:  Monitor hematocrit and perform PRBC transfusion
   4) Megacolon (chronic)/c. dificile: Vanc PO and Flagyl IV.
   5) Pericardial
   6) FEN: currently NPO
 will keep as may extubate today
   7)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2144-10-13**] 01:18 PM
   Arterial Line - [**2144-10-13**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2144-10-15 10:09:00 Physician Attending Progress Note
Chief Complaint: Resp failure
   HPI:
    Yesterday was extubated but post-extubation had increased respiratory
   rate, secretions and ultimately re-intubated.  After intubation, was
   hypotensive requiring vasopressors briefly but now off.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2144-10-14**] 12:36 PM
 INVASIVE VENTILATION - START [**2144-10-14**] 09:00 PM
 BLOOD CULTURED - At [**2144-10-14**] 11:30 PM
 MULTI LUMEN - START [**2144-10-15**] 01:57 AM
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2144-10-15**] 12:29 AM
   Metronidazole - [**2144-10-15**] 08:33 AM
   Vancomycin - [**2144-10-15**] 08:35 AM
   Acyclovir - [**2144-10-15**] 08:35 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2144-10-14**] 05:01 PM
   Metoprolol - [**2144-10-14**] 06:21 PM
   Furosemide (Lasix) - [**2144-10-14**] 08:00 PM
   Diltiazem - [**2144-10-14**] 08:04 PM
   Heparin Sodium (Prophylaxis) - [**2144-10-15**] 08:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unable
   Flowsheet Data as of  [**2144-10-15**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.2
C (98.9
   HR: 61 (61 - 141) bpm
   BP: 111/51(70) {42/26(32) - 161/99(119)} mmHg
   RR: 16 (14 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Mixed Venous O2% Sat: 98 - 98
   Total In:
                                                                  1,183 mL
                                                                  1,692 mL
   PO:
   TF:
   IVF:
                                                                    945 mL
                                                                  1,652 mL
   Blood products:
                                                                     28 mL
                                                                     40 mL
   Total out:
                                                                  1,420 mL
                                                                    535 mL
   Urine:
                                                                  1,320 mL
                                                                    535 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                   -237 mL
                                                                  1,157 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   PS : 5 cmH2O
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 62
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 36.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.35/35/162/18/-5
   Ve: 8.7 L/min
   PaO2 / FiO2: 324
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   405 K/uL
   163 mg/dL
   0.7 mg/dL
   18 mEq/L
   3.4 mEq/L
   17 mg/dL
   118 mEq/L
   144 mEq/L
   24.8 %
   9.7 K/uL
        [image002.jpg]
                             [**2144-10-14**]  04:22 AM
                             [**2144-10-14**]  04:50 AM
                             [**2144-10-14**]  12:33 PM
                             [**2144-10-14**]  03:14 PM
                             [**2144-10-14**]  03:24 PM
                             [**2144-10-14**]  05:59 PM
                             [**2144-10-14**]  11:09 PM
                             [**2144-10-14**]  11:29 PM
                             [**2144-10-15**]  04:02 AM
                             [**2144-10-15**]  04:19 AM
   WBC
   6.4
   9.7
   Hct
   21.5
   29.2
   24.8
   Plt
   313
   405
   Cr
   0.5
   0.6
   0.7
   TCO2
   24
   23
   22
   21
   20
   20
   Glucose
   100
   96
   112
   163
   Other labs: PT / PTT / INR:14.2/28.9/1.2, CK / CKMB /
   Troponin-T:[**9-13**]/<0.01, Differential-Neuts:93.0 %, Lymph:3.4 %, Mono:2.6
   %, Eos:0.8 %, Lactic Acid:0.9 mmol/L, Albumin:2.6 g/dL, LDH:189 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   1)       Acute Respiratory Failure: Failed extubated yesterday and
   re-intubated combination of secretions and likely HAP
   Plan: Wean fio2 to .4
   - Treat pneumonia
   2) Pneumonia/sepsis
   - Sputum culture pending
   - Started on vancomycin and cefepime
   - IVFs as needed although currently normotensive and good urine op so
   will monitor
   3) Hodgkins Lymphoma
   4) Anemia
   5) Megacolon/c.dif: PO Vanco, Flagyl IV
   6) Atrial fibrillation:
   7) FEN: tube feeds
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2144-10-13**] 01:18 PM
   Arterial Line - [**2144-10-13**] 02:00 PM
   Multi Lumen - [**2144-10-15**] 01:57 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :  ICU care
   Total time spent: 35 minutes (critically ill)

2144-10-16 11:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   59 year old female history of hodgkins lymphoma s/p chemo with
   respiratory failure and failed extubation likely secondary to HAP.
   Overnight, lost arterial line access. No other new problems
   24 Hour Events:
 PICC LINE - STOP [**2144-10-15**] 02:42 PM
 INVASIVE VENTILATION - STOP [**2144-10-15**] 08:06 PM
 ARTERIAL LINE - STOP [**2144-10-16**] 02:00 AM
   Unable to obtain history secondary to mental status/intubation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2144-10-15**] 11:45 PM
   Cefipime - [**2144-10-16**] 12:21 AM
   Vancomycin - [**2144-10-16**] 08:21 AM
   Metronidazole - [**2144-10-16**] 08:22 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2144-10-15**] 04:11 PM
   Heparin Sodium (Prophylaxis) - [**2144-10-16**] 08:22 AM
   Other medications:
   Med list reviewed - see [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-16**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.9
C (96.7
   HR: 85 (47 - 87) bpm
   BP: 122/44(64) {99/43(58) - 132/72(84)} mmHg
   RR: 15 (4 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,418 mL
                                                                    446 mL
   PO:
             TF:
   IVF:
                                                                  2,418 mL
                                                                    446 mL
   Blood products:
   Total out:
                                                                  1,530 mL
                                                                    630 mL
   Urine:
                                                                  1,530 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    888 mL
                                                                   -184 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   Compliance: 39.3 cmH2O/mL
   SpO2: 96%
   ABG: ///19/
   Ve: 8.9 L/min
   Physical Examination
   Intubated/sedated
   Chest: CTA
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  warm/dry
   Neurologic: poorly responsive
   Labs / Radiology
   7.4 g/dL
   250 K/uL
   103 mg/dL
   0.6 mg/dL
   19 mEq/L
   2.7 mEq/L
   17 mg/dL
   122 mEq/L
   148 mEq/L
   21.7 %
   3.4 K/uL
        [image002.jpg]
                             [**2144-10-14**]  12:33 PM
                             [**2144-10-14**]  03:14 PM
                             [**2144-10-14**]  03:24 PM
                             [**2144-10-14**]  05:59 PM
                             [**2144-10-14**]  11:09 PM
                             [**2144-10-14**]  11:29 PM
                             [**2144-10-15**]  04:02 AM
                             [**2144-10-15**]  04:19 AM
                             [**2144-10-16**]  03:43 AM
                             [**2144-10-16**]  09:16 AM
   WBC
   9.7
   2.3
   3.4
   Hct
   29.2
   24.8
   20.5
   21.7
   Plt
   [**Telephone/Fax (3) 5094**]
   Cr
   0.6
   0.7
   0.6
   TCO2
   23
   22
   21
   20
   20
   Glucose
   112
   163
   103
   Other labs: PT / PTT / INR:14.2/28.9/1.2, CK / CKMB /
   Troponin-T:[**9-13**]/<0.01, ALT / AST:19/19, Alk Phos / T Bili:124/0.2,
   Differential-Neuts:90.5 %, Lymph:3.5 %, Mono:2.9 %, Eos:2.6 %, Lactic
   Acid:0.9 mmol/L, Albumin:2.3 g/dL, LDH:119 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   1) Acute Respiratory Failure
   Plan:
   - Discontinue sedation, PS, and evaluate for extubation
   - Diuresis: 1 liter goal
   2) Pneumonia
   Plan: Continue antibiotics
   3) Hypernatremia:
   Plan: free water
   4) FEN:
   Plan: NPO for now
 TFs if not extubated
   5) Anemia: Transfuse hct >25%
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2144-10-15**] 01:57 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent: 35 minutes (patient is critically ill)

2144-10-19 11:59:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Was extubated yesterday and no new complaints.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2144-10-18**] 09:37 AM
   Full history not available as patient has mental impairment
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2144-10-16**] 07:58 PM
   Acyclovir - [**2144-10-17**] 12:37 AM
   Vancomycin - [**2144-10-19**] 08:00 AM
   Metronidazole - [**2144-10-19**] 08:00 AM
   Cefipime - [**2144-10-19**] 11:42 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2144-10-18**] 08:45 PM
   Fentanyl - [**2144-10-18**] 08:45 PM
   Furosemide (Lasix) - [**2144-10-19**] 04:59 AM
   Heparin Sodium (Prophylaxis) - [**2144-10-19**] 08:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-19**] 11:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36
C (96.8
   HR: 61 (49 - 114) bpm
   BP: 111/58(72) {101/37(55) - 143/96(132)} mmHg
   RR: 16 (16 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,687 mL
                                                                  1,713 mL
   PO:
             TF:
   IVF:
                                                                  1,527 mL
                                                                  1,118 mL
   Blood products:
   Total out:
                                                                  3,685 mL
                                                                  4,010 mL
   Urine:
                                                                  3,685 mL
                                                                  4,010 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,998 mL
                                                                 -2,297 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   Gen: Awake, alert NAD
   Chest: CTA bilaterally
   Cardiovascular: (S1: Normal), (S2: Normal)
   Abd: soft NT ND
   Neuro: alert and oriented; no focal neurological findings
   Labs / Radiology
   9.2 g/dL
   65 K/uL
   138 mg/dL
   0.3 mg/dL
   25 mEq/L
   3.2 mEq/L
   11 mg/dL
   117 mEq/L
   147 mEq/L
   26.1 %
   0.1 K/uL
        [image002.jpg]
                             [**2144-10-15**]  04:02 AM
                             [**2144-10-15**]  04:19 AM
                             [**2144-10-16**]  03:43 AM
                             [**2144-10-16**]  09:16 AM
                             [**2144-10-16**]  06:47 PM
                             [**2144-10-17**]  04:21 AM
                             [**2144-10-17**]  11:33 PM
                             [**2144-10-18**]  04:55 AM
                             [**2144-10-18**]  04:20 PM
                             [**2144-10-19**]  04:01 AM
   WBC
   9.7
   2.3
   3.4
   7.3
   4.3
   0.6
   0.1
   Hct
   24.8
   20.5
   21.7
   27.2
   26.5
   29.9
   26.1
   Plt
   [**Telephone/Fax (3) 5178**]
   65
   Cr
   0.7
   0.6
   0.5
   0.4
   0.4
   0.5
   0.3
   TCO2
   20
   Glucose
   163
   103
   118
   152
   134
   142
   114
   138
   Other labs: PT / PTT / INR:14.2/28.9/1.2, CK / CKMB /
   Troponin-T:[**9-13**]/<0.01, ALT / AST:19/19, Alk Phos / T Bili:124/0.2,
   Differential-Neuts:90.5 %, Lymph:3.5 %, Mono:2.9 %, Eos:2.6 %, Lactic
   Acid:0.9 mmol/L, Albumin:2.3 g/dL, LDH:119 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   1) Respiratory Failure:
   - Extubated and doing ok. Still having lots of secretions which require
   frequent suctioning. Thus, cannot send to the [**Hospital1 **] today.
   Plan:
   - Continue aggreesive chest PT, suction
   - Lasix to keep negative
   2) Pneumonia:
   - continue empiric antibiotic coverage particularly since pancytopenic
   from chemotherapy
   3) C. Dificile:
   - flagyl/vanc
   4) Pancytopenia:
   - will follow hct, transfuse if drops below 25%
   5)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2144-10-15**] 01:57 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : ICU care
   Total time spent: 30 minutes

2144-10-20 11:40:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No new complaints overnight
   24 Hour Events:
 STOOL CULTURE - At [**2144-10-19**] 09:32 AM
   stool for c-diff sent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2144-10-20**] 12:10 AM
   Vancomycin - [**2144-10-20**] 08:08 AM
   Metronidazole - [**2144-10-20**] 09:09 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2144-10-19**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2144-10-19**] 04:00 PM
   Enoxaparin (Lovenox) - [**2144-10-20**] 08:10 AM
   Other medications:
   Med list reviewed - See [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-20**] 11:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.8
C (96.5
   HR: 125 (48 - 128) bpm
   BP: 102/77(83) {92/46(64) - 137/91(102)} mmHg
   RR: 18 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,152 mL
                                                                  1,559 mL
   PO:
             TF:
                                                                    328 mL
                                                                    461 mL
   IVF:
                                                                  1,599 mL
                                                                    758 mL
   Blood products:
   Total out:
                                                                  5,070 mL
                                                                    655 mL
   Urine:
                                                                  5,070 mL
                                                                    655 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,918 mL
                                                                    904 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   Gen: awake, alert NAD
   HEENT: NCAT
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: soft NT ND
   Neuro: Alert, no focal neuro findings
   Labs / Radiology
   8.4 g/dL
   34 K/uL
   97 mg/dL
   0.3 mg/dL
   28 mEq/L
   2.7 mEq/L
   11 mg/dL
   113 mEq/L
   144 mEq/L
   24.0 %
   0.1 K/uL
        [image002.jpg]
                             [**2144-10-16**]  03:43 AM
                             [**2144-10-16**]  09:16 AM
                             [**2144-10-16**]  06:47 PM
                             [**2144-10-17**]  04:21 AM
                             [**2144-10-17**]  11:33 PM
                             [**2144-10-18**]  04:55 AM
                             [**2144-10-18**]  04:20 PM
                             [**2144-10-19**]  04:01 AM
                             [**2144-10-19**]  06:02 PM
                             [**2144-10-20**]  04:25 AM
   WBC
   2.3
   3.4
   7.3
   4.3
   0.6
   0.1
   0.1
   Hct
   20.5
   21.7
   27.2
   26.5
   29.9
   26.1
   24.0
   Plt
   193
   250
   211
   179
   117
   65
   34
   Cr
   0.6
   0.5
   0.4
   0.4
   0.5
   0.3
   0.2
   0.3
   Glucose
   103
   118
   152
   134
   142
   114
   138
   116
   97
   Other labs: PT / PTT / INR:14.2/28.9/1.2, CK / CKMB /
   Troponin-T:[**9-13**]/<0.01, ALT / AST:19/19, Alk Phos / T Bili:124/0.2,
   Differential-Neuts:20.0 %, Band:0.0 %, Lymph:80.0 %, Mono:0.0 %,
   Eos:0.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.3 g/dL, LDH:119 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:1.3 mg/dL
   Assessment and Plan
   A)
   1: Acute Respiratory Failure/Pneumonia: stable off the ventilator and
   doing well.  Secretions decreased.
   Plan:
   -          Continue antibiotics
   -          Continue chest PT
   -          Continue lasix
   2: Tachycardia:
   -          may have some rebound tachycardia from being off high doses
   of beta blocker that she is typically on and this has happened to her
   before.  Will re-start and monitor.  Considered and treating other
   causes of tachycardia such as infection.
   3: Hodgkins Lymphoma:
   4:
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2144-10-20**] 04:17 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2144-10-15**] 01:57 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : ICU care (until tachycardia resolved)
   Total time spent: 30 minutes

2144-10-21 10:03:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, resolved.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Increased oral beta-blockade; received one dose of IV metoprolol
   yesterday with improved rate control.
   Oxygenation and respiratory status stable.
   Still complains of mild abdominal pain without change.
   Received one unit of pRBCs yesterday with good response.
   Remains neutropenic.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2144-10-21**] 12:01 AM
   Acyclovir - [**2144-10-21**] 08:08 AM
   Vancomycin - [**2144-10-21**] 08:09 AM
   Metronidazole - [**2144-10-21**] 08:09 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2144-10-20**] 01:53 PM
   Heparin Sodium (Prophylaxis) - [**2144-10-21**] 08:09 AM
   Other medications:
   Heparin subQ TID
   Protonix 40mg IV qd
   Flagyl 500 IV q8
   Vanc PO
   Acyclovir
   Bactrim TIW
   Amio 200mg PO BID
   Cefepmie 2gm IV BID
   Vanc 1gm IV BID
   Albuterol / combivent
   Neupogen 480 subQ qd
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-21**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 70 (62 - 141) bpm
   BP: 119/60(74) {84/46(62) - 129/100(104)} mmHg
   RR: 18 (16 - 160) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,461 mL
                                                                  1,522 mL
   PO:
             TF:
                                                                    963 mL
                                                                    532 mL
   IVF:
                                                                  1,282 mL
                                                                    740 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,735 mL
                                                                    870 mL
   Urine:
                                                                  2,735 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    726 mL
                                                                    652 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   General Appearance: No(t) Well nourished, Overweight / Obese, No(t)
   Thin, No(t) Anxious
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 2+, Left: 2+, No Cyanosis, No Clubbing
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   17 K/uL
   121 mg/dL
   0.2 mg/dL
   28 mEq/L
   4.2 mEq/L
   12 mg/dL
   113 mEq/L
   144 mEq/L
   27.4 %
   0.1 K/uL
        [image002.jpg]
                             [**2144-10-16**]  06:47 PM
                             [**2144-10-17**]  04:21 AM
                             [**2144-10-17**]  11:33 PM
                             [**2144-10-18**]  04:55 AM
                             [**2144-10-18**]  04:20 PM
                             [**2144-10-19**]  04:01 AM
                             [**2144-10-19**]  06:02 PM
                             [**2144-10-20**]  04:25 AM
                             [**2144-10-20**]  10:05 PM
                             [**2144-10-21**]  04:16 AM
   WBC
   7.3
   4.3
   0.6
   0.1
   0.1
   0.1
   Hct
   27.2
   26.5
   29.9
   26.1
   24.0
   27.4
   Plt
   [**Telephone/Fax (3) 5282**]5
   34
   17
   Cr
   0.5
   0.4
   0.4
   0.5
   0.3
   0.2
   0.3
   0.2
   0.2
   Glucose
   118
   152
   134
   142
   114
   138
   116
   97
   117
   121
   Other labs: PT / PTT / INR:14.6/29.9/1.3, CK / CKMB /
   Troponin-T:[**9-13**]/<0.01, ALT / AST:20/14, Alk Phos / T Bili:96/0.5,
   Differential-Neuts:20.0 %, Band:0.0 %, Lymph:80.0 %, Mono:0.0 %,
   Eos:0.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.6 g/dL, LDH:107 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:1.5 mg/dL
   Microbiology: C diff negative [**10-19**]
   Blood ([**10-14**]) NG
   Urine ([**10-14**]) NG
   Assessment and Plan
   Impression: 59yo woman with MR, refractory Hodgkin's lymphoma c/b
   pericardial tamponade s/p window, pA fib and other issues here with
   respiratory failure.
   A/P:
   1) Respiratory failure: Resolved currently -- off vent for several
   days, tolerating low supplement oxygen. Suctioning and chest PT
   requirements have decreased. Possibly due to pneumonia which appears to
   have resolved.
   2) ID: Continuing Vanc and Cefepime IV given she is persistently
   neutropenic. Continues on Vanc PO and Flagyl IV for presumptive C diff
   in the setting of of dilated colon. If she were to spike a fever, the
   next empiric treatment would be anti-fungals.
   3) Onc: S/p chemo now in neutropenic nadir. Continue neupogen.
   Transfuse as needed for goal Hct > 21%.
   4) CV: Continue Amio, titrate up beta-blocker as needed. Given good
   response to this dose will hold her dose / frequency for now and
   titrate as needed.
   5) Neuro: Lower extremity weakness likely [**3-14**] deconditioning, will need
   aggressive PT. No e/o a localizing lesion or deficit that would invoke
   a spinal cord process. Monitor and continue daily assessment in the
   setting of PT.
   6) F/E/N: Continue feeds, follow replete 'lytes.
   7) Code: DNR not DNI. Access: RIJ --> will request PICC for now. Dispo:
   Called out to floor.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2144-10-21**] 05:00 AM 70 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2144-10-15**] 01:57 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent: